US07728129B2
(4-Isopropyl-piperazin-1-yl)-(4-piperidin-1-ylmethyl-phenyl)-methanone
A mixture of hydroxy-[4-(4-isopropyl-piperazine-1-carbonyl)-phenyl]-methanesulfonic acid sodium salt (54.6 g, 0.150 mol), piperidine (28.0 g, 0.330 mol), and Montmorillonite-K10 (10.9 g, 20% by wt. relative to starting material) in dichloroethane (820 mL) was stirred at room temperature for 16 h. NaBH(OAc)3 (44.5 g, 210.0 mmol) was added in portions over 1 h, and the resulting suspension was stirred at room temperature for 5 h. Diatomaceous earth (5.4 g) was added and the suspension was stirred for an additional 30 min. The reaction mixture was filtered through a pad of diatomaceous earth, rinsing with dichloroethane (2×100 mL). The filtrate was washed with 1 N NaOH (2×200 mL). The aqueous layers were combined and back-extracted with dichloroethane (2×100 mL). The organic layers were combined, dried (Na2SO4), and concentrated to yield the title compound as its corresponding free base, as a pale yellow oil.

reactant | hydroxy-[4-(4-isopropyl-piperazine-1-carbonyl)-phenyl]-methanesulfonic acid sodium salt | 0.150 mol, 54.6 g | [Na+].OC(S(=O)(=O)[O-])C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C)C
reactant | piperidine | 0.330 mol, 28.0 g | N1CCCCC1 | C5H11N
reactant | NaBH(OAc)3 | 210.0 mmol, 44.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 820 mL | ClC(C)Cl | C2H4Cl2
product | (4-Isopropyl-piperazin-1-yl)-(4-piperidin-1-ylmethyl-phenyl)-methanone | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCCCC1 | C20H31N3O
